US09399051B2
Each of the proteolytic enzyme-treated azuki bean prepared in Example 2 and an enzyme-treated defatted soybean prepared using the same method as Example 2 was dissolved in 0.25 M phosphate buffer (pH 6.8) used as assay buffer to a concentration of 16.7 mg/mL to give a sample. Measurement of α-glucosidase activity was carried out in the manner described below. Specifically, 60 μL of the sample was added to wells of a 96-well plate while 60 μL of assay buffer was added to wells for control. Subsequently, 20 μL of yeast-derived α-glucosidase (Oriental Yeast Co., Ltd.) adjusted to a concentration of 1.25 U/mL (10 μg protein/mL) was added followed by incubating for 10 minutes at 37° C. Next, 20 μL of a 250 mM solution of sucrose in assay buffer was added followed by incubating for 20 minutes at 37° C. (the concentration of each enzyme-treated product during the reaction was 10 mg/mL). Following completion of incubation, 100 μL of 2 M Tris-HCl buffer (pH 7.0) was added to stop the reaction. After stopping the reaction, 50 μL of the reaction liquid in each well was transferred to a separate 96-well plate followed by the addition of 200 μL of a Glucose CII Test Wako reagent (Wako Pure Chemical Industries, Ltd.) and incubating for 5 minutes at 37° C. Following completion of incubation, the absorbance at 505 nm was measured, and the amount of glucose formed was determined from a calibration curve prepared using glucose standards. Furthermore, the α-glucosidase activity was calculated as indicated below based on a value of 100% for the value of α-glucosidase activity of the control. α-Glucosidase activity(%)=(A/B)×100

reactant | sucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | Tris-HCl | 2 M, 100 μL, pH 7.0 | C(C(CO)(CO)N)O.Cl
solvent | phosphate | 0.25 M, pH 6.8 | P(=O)([O-])([O-])[O-]
product | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
